US06426345B1
To a solution of 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (200 mg) in acetic acid (2 ml) and water (2 ml) was added solution of potassium cyanate (99 mg) in water (1 ml). The mixture was stirred at room temperature for 2 hours and concentrated. The residue was dissolved in ethyl acetate and washed with an aqueous sodium bicarbonate solution, and brine, dried over magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography (4% methanol in chloroform) to afford 2-benzyl-3-oxo-4-(3-ureidophenyl)-3,4-dihydropyrido[2,3-b]pyrazine (78 mg) as solid.

reactant | 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 200 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | potassium cyanate | 99 mg | [O-]C#N.[K+]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 2-benzyl-3-oxo-4-(3-ureidophenyl)-3,4-dihydropyrido[2,3-b]pyrazine | 78 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)N)N=CC=C2 | C21H17N5O2
